US05037714
1.7 g of 4-(2,2'-dicyanovinyl)phenol and 2.7 g of 2,4,5-trichlorobenzenesulfonyl chloride were dissolved in 10 ml of pyridine and reacted at 80° C. for 30 minutes. Crystals were precipitated by cooling to the room temperature and adding water, filtered and recrystallized from toluene to obtain 3.5 g of 4-(2,2'-dicyanovinyl)phenyl 2,4,5-trichlorobenzenesulfonate as white crystals. Melting point=165-166° C.

reactant | 4-(2,2'-dicyanovinyl)phenol | 1.7 g | C(#N)C(=CC1=CC=C(C=C1)O)C#N | C10H6N2O
reactant | 2,4,5-trichlorobenzenesulfonyl chloride | 2.7 g | ClC1=C(C=C(C(=C1)Cl)Cl)S(=O)(=O)Cl | C6H2Cl4O2S
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 4-(2,2'-dicyanovinyl)phenyl 2,4,5-trichlorobenzenesulfonate | 3.5 g | ClC1=C(C=C(C(=C1)Cl)Cl)S(=O)(=O)OC1=CC=C(C=C1)C=C(C#N)C#N | C16H7Cl3N2O3S
